US04182881
A. N-[Dichlorophosphinyl]-4-[1,1-dimethylethyl]benzamide
A mixture of 75 g (0.42 mole) of 4-tert-butylbenzamide, 88.1 g (0.42 mole) of phosphorus pentachloride and 750 ml of AR carbon tetrachloride was heated at 70° until the evolution of HCl had nearly ceased. The reaction was cooled to 30° and 19.5 g (0.42 mole) of 97% formic acid, added dropwise. After the 20 min. addition, it was chilled to 0°, filtered, washed with AR carbon tetrachloride and air-dired to give 82 g, m.p. 110°-111°.

reactant | 4-tert-butylbenzamide | 0.42 mole, 75 g | C(C)(C)(C)C1=CC=C(C(=O)N)C=C1 | C11H15NO
reactant | phosphorus pentachloride | 0.42 mole, 88.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | Cl | ClH
reactant | formic acid | 0.42 mole, 19.5 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-4-[1,1-dimethylethyl]benzamide | ClP(=O)(NC(C1=CC=C(C=C1)C(C)(C)C)=O)Cl | C11H14Cl2NO2P
